US08629270B2
tert-Butyl N-allyl-N-phenacyl-carbamate
To a solution of tert-butyl N-allyl-N-[2-(methoxy(methyl)amino)-2-oxo-ethyl]carbamate (4.0 g, 15.5 mmol) in THF (54 mL) cooled to −20° C. is added drop wise phenyl magnesium bromide (10.3 ml, 3 M in diethyl ether). The reaction is monitored by TLC, carefully quenched with saturated ammonium chloride in water (20 mL), diluted with water (100 mL) and extracted with dichloromethane. The organic layers are combined, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give a residue. The residue is purified by silica gel flash chromatography, eluting with hexane/ethyl acetate (1:0) to hexane/ethyl acetate (5:1) to give the title compound (3.2 g, 75%). 1H NMR (CDCl3) Mixture of two rotamers (51:49) δ 1.47, 1.35 (s, 9H), 3.91, 3.99 (d, 2H), 4.52, 4.65 (s, 2H), 5.07-5.16 (m, 2H), 5.72-5.87 (m, 1H), 7.41-7.50 (m, 2H), 7.52-7.60 (m, 1H), 7.88-7.95 (m, 2H).

reactant | tert-butyl N-allyl-N-[2-(methoxy(methyl)amino)-2-oxo-ethyl]carbamate | 15.5 mmol, 4.0 g | C(C=C)N(C(OC(C)(C)C)=O)CC(=O)N(C)OC | C12H22N2O4
reactant | phenyl magnesium bromide | 3 M, 10.3 ml | C1(=CC=CC=C1)[Mg]Br
solvent | THF | 54 mL | C1CCOC1 | C4H8O
product | tert-Butyl N-allyl-N-phenacyl-carbamate | 3.2 g, 75% | C(C=C)N(C(OC(C)(C)C)=O)CC(=O)C1=CC=CC=C1 | C16H21NO3
